US04038396
To a solution of 3.3 g. (0.03 mole) of 3-amino-2-pyridone in 75 ml. of pyridine cooled in ice was added portionwise 6.3 g. (0.04 mole) of 2-fluorobenzoyl chloride over 5 minutes. After stirring for 15 hours at ambient temperature, the mixture was poured into ice-water. The resultant precipitate was collected by filtration, washed with water and recrystallized from ethanol to give 3-(2-fluorobenzoylamino)-2-pyridone, m.p. 223° C.

reactant | 3-amino-2-pyridone | 0.03 mole | NC=1C(NC=CC1)=O | C5H6N2O
reactant | 2-fluorobenzoyl chloride | 0.04 mole | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(2-fluorobenzoylamino)-2-pyridone | FC1=C(C(=O)NC=2C(NC=CC2)=O)C=CC=C1 | C12H9FN2O2
